US04699915
A mixture of 3-amino-phenacyl bromide hydrobromide (11.78 g), thioacetamide (3 g) and dimethylformamide (20 ml) was stirred at room temperature for 24 hours and then poured into water (100 ml). The resulting solution was made alkaline with 10% sodium hydroxide, and the precipitate was filtered off and dried to give 6 g of 2-methyl-4-(3-amino-phenyl)-thiazole; M.p. 134°-137° C.

reactant | 3-amino-phenacyl bromide hydrobromide | 11.78 g | Br.NC=1C=C(C(CBr)=O)C=CC1
reactant | thioacetamide | 3 g | C(C)(=S)N | C2H5NS
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 2-methyl-4-(3-amino-phenyl)-thiazole | 6 g | CC=1SC=C(N1)C1=CC(=CC=C1)N | C10H10N2S
